US05342846
5-Amino-1-cyclopropyl-6,8-difluoro-7-[3-(4-Phenyl-1,2,3-triazol-1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline -3-carboxylic acid
A mixture of 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid (100 mg, 0.33 mmol), 3-(4-phenyl-1,2,3-triazol-1-yl)pyrrolidine hydrochloride (160 mg, 0.42 mmol) and diazobicycloundecane (102 mg, 0.67 mmol) in pyridine (5 ml) was heated at 90° C. for 20 hrs. The reaction mixture was concentrated and the residue was diluted with water. The separated solid was filtered, washed with water, methanol and then with CHCl3, followed by acetonitrile to get 16 mg (10%) of title compound, m.p. 265° C. 1H NMR (TFA) δ: 0.92-1.43 (m, 4H), 2.51-2.80 (m, 2H), 3.57-4.59 (m, 5H), 5.43-5.62 (m, 1H), 7.44 (dd, 5H), 8.50 (s, 1H), 8.84 (s, 1H).

reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 0.33 mmol, 100 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | 3-(4-phenyl-1,2,3-triazol-1-yl)pyrrolidine hydrochloride | 0.42 mmol, 160 mg | Cl.C1(=CC=CC=C1)C=1N=NN(C1)C1CNCC1
reactant | diazobicycloundecane | 0.67 mmol, 102 mg | [N+](=[N-])=C1C(CCCCCCCCC1)C1CCCCCCCCCC1 | C22H40N2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 5-Amino-1-cyclopropyl-6,8-difluoro-7-[3-(4-Phenyl-1,2,3-triazol-1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline -3-carboxylic acid | 16 mg, 10% | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(CC1)N1N=NC(=C1)C1=CC=CC=C1)F)C1CC1)C(=O)O)=O | C25H22F2N6O3
